US06858591B2
By using an analogous procedure to that described for Reference Example 13, N-(carbobenzyloxy)-L-phenylalanine (2 g, 6.68 mmol), hydroxybenzotriazole (903 mg, 6.68 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride 1.28 g, 6.68 mmol), 1-amino-3,3-diethoxypropane (935 mg, 6.36 mmol) and N,N-diisopropylethylamine (1.16 mL, 6.68 mmol) were reacted in anhydrous tetrahydrofuran (32 mL) at room temperature for 16 h, to provide benzyl (1S)-1-benzyl-2-[(3,3-diethoxypropyl)amino]-2-oxoethylcarbamate (2.5 g, 92%) as a white solid.

reactant | N-(carbobenzyloxy)-L-phenylalanine | 6.68 mmol, 2 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC1=CC=CC=C1)C(=O)O | C17H17NO4
reactant | hydroxybenzotriazole | 6.68 mmol, 903 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 6.68 mmol, 1.28 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-amino-3,3-diethoxypropane | 6.36 mmol, 935 mg | NCCC(OCC)OCC | C7H17NO2
reactant | N,N-diisopropylethylamine | 6.68 mmol, 1.16 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 32 mL | O1CCCC1 | C4H8O
product | benzyl (1S)-1-benzyl-2-[(3,3-diethoxypropyl)amino]-2-oxoethylcarbamate | 2.5 g, 92% | C(C1=CC=CC=C1)[C@@H](C(=O)NCCC(OCC)OCC)NC(OCC1=CC=CC=C1)=O | C24H32N2O5
